US04900825
A mixture of 17.2 g (0.1 mole) of 1-methyl-4,5-dinitroimidazole, 11.2 g (0.12 mole) of phenol and 4.4 g (0.11 mole) of NaOH in 200 ml of water was stirred for 1 hour at 50° C. Thereafter, the solution was diluted with a further 300 ml of water and was cooled. The precipitated crystals were filtered off under suction and recrystallized from water. 21.0 g (96%) of 1-methyl-4-nitro-5-phenoxyimidazole of melting point 116°-118° C. were obtained.

reactant | 1-methyl-4,5-dinitroimidazole | 0.1 mole, 17.2 g | CN1C=NC(=C1[N+](=O)[O-])[N+](=O)[O-] | C4H4N4O4
reactant | phenol | 0.12 mole, 11.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 0.11 mole, 4.4 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 1-methyl-4-nitro-5-phenoxyimidazole | 21.0 g, 96% | CN1C=NC(=C1OC1=CC=CC=C1)[N+](=O)[O-] | C10H9N3O3
